US04952584
4-amino-2,9-dimethyl-6-hydroxy-9H-pyrido[2,3-b]indole-3-carboxylic acid, methyl ester.
2,9-dimethyl-4-methylamino-9H-pyrido[2,3-b]indole-3-carboxylic acid, ethyl ester, (Z)-2-butenedioate, or

reactant | 2,9-dimethyl-4-methylamino-9H-pyrido[2,3-b]indole-3-carboxylic acid, ethyl ester | CC=1C(=C(C2=C(N(C3=CC=CC=C23)C)N1)NC)C(=O)OCC | C17H19N3O2
reactant | (Z)-2-butenedioate | C(\C=C/C(=O)[O-])(=O)[O-]
product | 4-amino-2,9-dimethyl-6-hydroxy-9H-pyrido[2,3-b]indole-3-carboxylic acid, methyl ester | NC1=C(C(=NC=2N(C3=CC=C(C=C3C21)O)C)C)C(=O)OC | C15H15N3O3
